US09029560B2
Preparation of 1-allyl-4-methyl-2-nitrobenzene (CA30)
To 1-chloro-4-methyl-2-nitrobenzene (2.00 g, 11.7 mmol), allyltributylstannane (5.79 g, 17.5 mmol) and bis(triphenylphosphine)palladium(II) dichloride (0.818 g, 1.17 mmol) in two 25-mL reaction vials was added 1,2-dichloroethane (20 mL). The vials were capped and heated at 120° C. for 45 minutes in a Biotage Initiator® microwave reactor with an external IR-sensor temperature monitoring from the side of the vessel. The reaction mixture was loaded onto a Celite® cartridge. The crude material was purified by flash column chromatography using 0-50% ethyl acetate/hexanes as eluent followed by reverse-phase flash column chromatography using 0-100% acetonitrile/water as eluent. The combined acetonitrile/water fractions were concentrated, extracted with ethyl acetate, dried over sodium sulfate, filtered, concentrated, and dried in a vacuum oven to provide the title compound as a yellow liquid (1.76 g, 84%): 1H NMR (400 MHz, CDCl3) δ 7.73 (d, J=0.9 Hz, 1H), 7.34 (dd, J=7.8, 1.2 Hz, 1H), 7.24 (d, J=7.8 Hz, 1H), 5.96 (ddt, J=16.6, 10.1, 6.4 Hz, 1H), 5.08 (ddq, J=18.5, 17.0, 1.5 Hz, 2H), 3.64 (d, J=6.4 Hz, 2H), 2.40 (s, 3H); 13C NMR (101 MHz, CDCl3) δ 149.09, 137.62, 135.35, 133.81, 131.81, 131.72, 124.94, 116.81, 36.62, 20.72; EIMS m/z 176 ([M]+).

reactant | 1-chloro-4-methyl-2-nitrobenzene | 11.7 mmol, 2.00 g | ClC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | allyltributylstannane | 17.5 mmol, 5.79 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.17 mmol, 0.818 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 1-allyl-4-methyl-2-nitrobenzene | 1.76 g, 84% | C(C=C)C1=C(C=C(C=C1)C)[N+](=O)[O-] | C10H11NO2
